.title B_100n_MIR_CS
.include "../../../autohv_bicmos180_case.lib"
.param case=0 PROC_ON=0 MM_ON=0 MM_SIGMA=0
.options temp=27
Vdd vdd 0 5
Iin n2 0 1e-07
Xin n1 n1 vdd vdd PMOS50 W=8.76825e-07 L=2e-06 M=1
Xincs n2 n2 n1 vdd PMOS50 W=8.76825e-07 L=2e-06 M=1
Xout n3 n1 vdd vdd PMOS50 W=8.76825e-07 L=2e-06 M=1
Xoutcs nout n2 n3 vdd PMOS50 W=8.76825e-07 L=2e-06 M=1
Vout nout 0 0
.control
dc Vout 0 5 0.01
wrdata ignore.dat i(Vout)
.endc
.end
